US08211401B2
A solution of (19 S,23S)-tetra-tert-butyl 2-((1-(2-tert-butoxy -2-oxoethyl)-1H-imidazol-2-yl)methyl)-13,21-dioxo-2,14,20,22-tetraazapentacosane-1,19,23,25-tetracarboxylate (18.8 mg, 0.019 mmol) in TFA (1.0 mL)/DCM (1.0 mL) was stirred at room temperature for overnight. The solvent was evaporated to give 19S,23S)-2-((1-(carboxymethyl)-1H-imidazol-2-yl)methyl)-13,21-dioxo-2,14,20,22-tetraazapentacosane-1,19,23,25-tetracarboxylic acid as a colorless oil. To a solution of the above deprotected product in water (1.0 mL) that was adjusted to pH=9 by 2 N NaOH was added Re(CO)3(H2O)OTf (0.50 mL, 0.10 mL/mmol). The reaction mixtures were stirred at room temperature for overnight and purified by HPLC to afford the title compound (4.0 mg, 19%) as a white solid. 1H NMR (400 MHz, DMSO-d6) 7.70 (t, J=5.6 Hz, 1H), 7.33 (s, 1 H), 7.13 (s, 2 H), 6.29 (d, J=8.4 Hz, 1 H), 6.26 (d, J=8.4 Hz, 1H), 4.96 (d, J=4.8 Hz, 2 H), 4.56 (d, J=16.4 Hz, 1 H), 4.12 (d, J=16.8 Hz, 1 H), 4.07-3.90 (m, 2 H), 3.70 (d, J=17.2 Hz, 1 H), 3.40 (d, J=17.2 Hz, 1 H), 2.98-2.94 (m, 4 H), 2.21 (q, J=7.73, 2 H), 1.99 (t, J=7.6 Hz, 2 H), 1.70-1.22 (m, 24 H); MS (ESI), 485.2 (M/2+H)+.

reactant | (19 S,23S)-tetra-tert-butyl 2-((1-(2-tert-butoxy -2-oxoethyl)-1H-imidazol-2-yl)methyl)-13,21-dioxo-2,14,20,22-tetraazapentacosane-1,19,23,25-tetracarboxylate | 0.019 mmol, 18.8 mg | C(C)(C)(C)OC(CN1C(=NC=C1)CN(CC(=O)OC(C)(C)C)CCCCCCCCCCC(NCCCC[C@H](NC(N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C)=O)=O | C51H90N6O12
reactant | DCM | 1.0 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 1.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-((1-(carboxymethyl)-1H-imidazol-2-yl)methyl)-13,21-dioxo-2,14,20,22-tetraazapentacosane-1,19,23,25-tetracarboxylic acid | C(=O)(O)CN1C(=NC=C1)CN(CC(=O)O)CCCCCCCCCCC(NCCCCC(NC(NC(CCC(=O)O)C(=O)O)=O)C(=O)O)=O | C31H50N6O12
